US04649146
Trifluoroacetic acid (2.8 g) was dropwise added to a suspension of 2-methylamino-4-carbamoyl-5-(4-pyridyl)thiazole (2.1 g) and pyridine (2.8 g) in methylene chloride (60 ml) at 5° to 10° C. with stirring, which was continued under the same condition for 6 hours. The reaction mixture was poured into ice-water and the resultant mixture was acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 7.5 with 20% potassium carbonate and extracted with ethyl acetate. The organic extract was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo to give a crystalline residue, which was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to afford 4-cyano-2-methylamino-5-(4-pyridyl)thiazole (0.5 g). mp 192°-195° C.

reactant | Trifluoroacetic acid | 2.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-methylamino-4-carbamoyl-5-(4-pyridyl)thiazole | 2.1 g | CNC=1SC(=C(N1)C(N)=O)C1=CC=NC=C1 | C10H10N4OS
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2.8 g | N1=CC=CC=C1 | C5H5N
product | 4-cyano-2-methylamino-5-(4-pyridyl)thiazole | 0.5 g | C(#N)C=1N=C(SC1C1=CC=NC=C1)NC | C10H8N4S
